US04289769
A mixture of 15.0 g. of 4-carboxybenzaldehyde, 17.0 g. of N,N'-carbonyldiimidazole and 100 ml. of tetrahydrofuran is allowed to stand at room temperature for 3 hours, then 9.8 ml. of N-propylamine are added. The reaction mixture is allowed to stand at room temperature for 18 hours and is then heated at reflux temperature for one hour, diluted with water and concentrated. The oil which separates is washed twice with water and then purified by partition chromatography to yield p-formyl-N-propylbenzamide, m.p. 71°-74° C.

reactant | 4-carboxybenzaldehyde | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | N-propylamine | C(CC)N | C3H9N
solvent | water | O | H2O
product | p-formyl-N-propylbenzamide | C(=O)C1=CC=C(C(=O)NCCC)C=C1 | C11H13NO2
